US08703798B2
Synthesis of 1-(5-Cyclohexyl-pentyl)-3-phenyl-quinolinium iodide
A solution of Phenyl-quinolin-3-yl-amine (100 mg, 0.45 mmol) toluene (2 ml) and 5-iodo-pentyl-benzene (373 mg, 1.36 mmol) in a sealed pressure tube was stirred at 110° C. for 24 hours. The reaction mixture was cooled to room temperature, diluted with Et2O (15 ml) and the precipitated compound was filtered and washed with Et2O (3×20 ml). The crude product was purified on a chromatographic column using methanol as an eluent to yield a pure product as an orange solid (75 mg, mp 140-141° C.). 1H NMR (CD3OD): δ 1.42-1.56 (m, 2H), 1.66-178 (m, 2H), 2.04-2.18 (m, 2H), 2.58-2.68 (t, 2H, J=7.2 Hz), 4.88-5.04 (t, 2H, J=7.8 Hz), 7.08-7.24 (m, 6H), 7.14 (dd, 2H, J=0.9, 7.5 Hz), 7.40-7.44 (t, 2H, J=8.4 Hz), 7.76-7.84 (t, 1H, J=7.5 Hz), 7.86-7.94 (m, 1H), 8.08 (d, 1H, J=8.4 Hz), 8.30 (d, 1H, J=9.0 Hz), 8.46 (d, 1H, J=2.4 Hz), 9.04 (d, 1H, J=2.7 Hz). Anal Calcd for: C26H27IN2.1H2O: C, 60.92; H, 5.70; N, 5.47. Found: C, 60.79; H, 5.33; N, 6.38.

reactant | Phenyl-quinolin-3-yl-amine | 0.45 mmol, 2 ml, 100 mg | C1(=CC=CC=C1)NC=1C=NC2=CC=CC=C2C1 | C15H12N2
reactant | 5-iodo-pentyl-benzene | 1.36 mmol, 373 mg | ICCCCCC1=CC=CC=C1 | C11H15I
reactant | Et2O | 15 ml | CCOCC | C4H10O
product | 1-(5-Cyclohexyl-pentyl)-3-phenyl-quinolinium iodide | 75 mg | [I-].C1(CCCCC1)CCCCC[N+]1=CC(=CC2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C26H32N.HI/c1-4-12-22(13-5-1)14-6-3-11-19-27-21-25(23-15-7-2-8-16-23)20-24-17-9-10-18-26(24)27;/h2,7-10,15-18,20-22H,1,3-6,11-14,19H2;1H/q+1;/p-1
